US07625889B2
Step 1: 6-{5-[(1-Methyl-piperidin-4-ylamino)-methyl]-furan-3-yl}-3-trityl-3H-benzooxazol-2-one:
Sodium triacetoxyborohydride (339 mg, 1.6 mmol) was added to a solution of 4-(2-oxo-3-trityl-2,3-dihydro-benzooxazol-6-yl)-furan-2-carbaldehyde (377 mg, 0.8 mmol) and 1-methyl-piperidin-4-ylamine (219 mg, 1.92 mmol) and acetic acid (192 mg, 3.2 mmol) in 10 mL of 1,2-dichloroethane. The mixture was stirred at ambient temperature for 21 h, and then it was diluted with dichloromethane and washed with saturated sodium carbonate solution. The aqueous phase was extracted with dichloromethane, and the combined organic phases were washed with water and brine, dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography (elution with dichloromethane/methanol/acetic acid/water) gave 189 mg of product. LC/MS: Retention time, 2.38 min; (M+H)=570.

reactant | Sodium triacetoxyborohydride | 1.6 mmol, 339 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-(2-oxo-3-trityl-2,3-dihydro-benzooxazol-6-yl)-furan-2-carbaldehyde | 0.8 mmol, 377 mg | O=C1OC2=C(N1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=CC(=C2)C=2C=C(OC2)C=O | C31H21NO4
reactant | 1-methyl-piperidin-4-ylamine | 1.92 mmol, 219 mg | CN1CCC(CC1)N | C6H14N2
reactant | acetic acid | 3.2 mmol, 192 mg | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-{5-[(1-Methyl-piperidin-4-ylamino)-methyl]-furan-3-yl}-3-trityl-3H-benzooxazol-2-one | 189 mg | CN1CCC(CC1)NCC1=CC(=CO1)C1=CC2=C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C37H35N3O3
